US05380742
13.2 1,3-Dibromo-5-[(1H-imidazol-4-yl)methyl]-5,6-dihydro-4H-thieno[3,4-c]pyrrole dihydrochloride.
A suspension of 0.7 g (1.15 mmol) of 1,3-dibromo-5[(1-triphenylmethyl-1H-imidazol-4-yl) methyl]-5,6-dihydro-4H-thieno[3,4-c]pyrrole in 14 ml of 2M hydrochloric acid is heated at reflux for 1 hour. The precipitate formed is filtered and washed with water. The combined aqueous phases are washed with ethyl acetate and then evaporated to dryness to provide 0.45 g of a chestnut-brown solid which is crystallized from isopropanol. 0.082 g of a cream solid is obtained. Yield 17%. Melting point: 221° C. (with decomposition).

reactant | 1,3-dibromo-5[(1-triphenylmethyl-1H-imidazol-4-yl) methyl]-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 1.15 mmol, 0.7 g | BrC=1SC(=C2C1CN(C2)CC=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)Br | C29H23Br2N3S
reactant | hydrochloric acid | 2M, 14 ml | Cl | ClH
product | 1,3-Dibromo-5-[(1H-imidazol-4-yl)methyl]-5,6-dihydro-4H-thieno[3,4-c]pyrrole dihydrochloride | 0.45 g | Cl.Cl.BrC=1SC(=C2C1CN(C2)CC=2N=CNC2)Br | InChI=1S/C10H9Br2N3S.2ClH/c11-9-7-3-15(2-6-1-13-5-14-6)4-8(7)10(12)16-9;;/h1,5H,2-4H2,(H,13,14);2*1H
